US07723329B2
Step 3) 2-(2-Azido-ethoxy)-6-benzene-sulfonylmethyl-phenylamine
A mixture of 2-benzenesulfonylmethyl-6-(2-chloro-ethoxy)-phenylamine (0.5 g, 1.53 mmoles) and sodium azide (0.15 g, 2.29 mmoles) in DMSO (10 mL) was stirred together in a round bottom flask under nitrogen at 90° C. for 3 hours. Reaction mixture was cooled to room temperature, diluted with water, extracted with EtOAC, washed with water (2×), brine (1×), dried over Na2SO4, and concentrated under vacuum. Crude compound was purified by normal phase HPLC using as eluent 40% EtOAc/hexane to afford the title compound as an off white solid (0.39 g, 1.17 mmoles).

reactant | 2-benzenesulfonylmethyl-6-(2-chloro-ethoxy)-phenylamine | 1.53 mmoles, 0.5 g | C1(=CC=CC=C1)S(=O)(=O)CC1=C(C(=CC=C1)OCCCl)N | C15H16ClNO3S
reactant | sodium azide | 2.29 mmoles, 0.15 g | [N-]=[N+]=[N-].[Na+]
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 2-(2-Azido-ethoxy)-6-benzene-sulfonylmethyl-phenylamine | N(=[N+]=[N-])CCOC1=C(C(=CC=C1)CS(=O)(=O)C1=CC=CC=C1)N | C15H16N4O3S
